US04536588
102.1 parts of 2,2-dimethyl-4-hydroxypropanal, 120 parts of trimethylolethane, 5 parts of p-toluenesulfonic acid and 400 parts of toluene were charged in the same reactor as in Synthesis Example 1. The reaction was carried out in the same manner as in Example 1 until 18 parts of water was formed. The reaction temperature was 92° to 115° C. The solvent was distilled off under reduced pressure and the residue was filtered out and then purified to obtain 2,2-dimethyl-3-hydroxypropanal/trimethylolethane condensate. The condensate was a white solid having a hydroxyl value of 549.9 and melting point of 127° to 129.5° C.

reactant | trimethylolethane | C(O)C(C)(CO)CO | C5H12O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,2-dimethyl-3-hydroxypropanal trimethylolethane | CC(C=O)(CO)C.C(O)C(C)(CO)CO | InChI=1S/C5H12O3.C5H10O2/c1-5(2-6,3-7)4-8;1-5(2,3-6)4-7/h6-8H,2-4H2,1H3;3,7H,4H2,1-2H3
